US09193935B2
6.1: 1-Isopropyl-3-(6-(4-methoxyphenyl)hex-4-en-2-yl)benzene
Starting from p-methoxyphenethyltriphenylphosphonium bromide (1.20 g, 2.51 mmol, 1.0 equiv.), n-BuLi (1.6 M in hexanes, 1.6 mL, 2.51 mmol, 1.0 equiv.) and 3-(3-isopropylphenyl)butanal (0.72 g, 3.77 mmol, 1.5 equiv.), 0.20 g (26%) of the title compound as a yellow oil was obtained after purification by flash chromatography on SiO2 (cyclohexane/EtOAc 99:1).

reactant | p-methoxyphenethyltriphenylphosphonium bromide | 2.51 mmol, 1.20 g, 1.0 equiv. | [Br-].COC1=CC=C(CC[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=C1
reactant | n-BuLi | 2.51 mmol, 1.6 M, 1.6 mL, 1.0 equiv. | [Li]CCCC
reactant | 3-(3-isopropylphenyl)butanal | 3.77 mmol, 0.72 g, 1.5 equiv. | C(C)(C)C=1C=C(C=CC1)C(CC=O)C | C13H18O
product | 1-Isopropyl-3-(6-(4-methoxyphenyl)hex-4-en-2-yl)benzene | 0.20 g, 26% | C(C)(C)C1=CC(=CC=C1)C(C)CC=CCC1=CC=C(C=C1)OC | C22H28O
